US09376441B2
Prepared by Suzuki coupling reaction procedure, as previously described for the synthesis of 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)indolin-2-one:, using instead 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-6-oxa-3-azabicyclo[3.1.1]heptane (123.7 mg, 0.41 mmol) to afford 51.2 mg (41%) of (4R)-4-((1R)-1-((6-(4-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)phenyl)-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, d6-DMSO) δ 8.21 (s, 1H), 7.96 (d, J=8.8 Hz, 2H), 7.61 (s, 1H), 7.55 (s, 1H), 6.79 (d, J=8.7 Hz, 2H), 5.57 (m, 1H), 4.71 (m, 2H), 3.50 (m, 6H), 3.21 (m, 2H), 2.83 (m, 1H), 2.32 (m, 2H), 1.91 (m, 1H), 1.39 (d, J=6.2 Hz, 3H), 1.14 (m, 4H). MS (ESI+) m/z 460.2 (M+H).

reactant | 6-(3-cyclopropyl-4-((R)-1-((R)-5-oxopyrrolidin-3-yl)ethoxy)-3H-imidazo[4,5-c]pyridin-6-yl)indolin-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C1CC(NC1=C2)=O)O[C@H](C)[C@H]2CNC(C2)=O | C23H23N5O3
reactant | 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-6-oxa-3-azabicyclo[3.1.1]heptane | 0.41 mmol, 123.7 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CC2OC(C1)C2)C | C17H24BNO3
product | (4R)-4-((1R)-1-((6-(4-(6-oxa-3-azabicyclo[3.1.1]heptan-3-yl)phenyl)-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 51.2 mg, 41% | C12CN(CC(O1)C2)C2=CC=C(C=C2)C2=CC1=C(C(=N2)O[C@H](C)[C@@H]2CC(NC2)=O)N(C=N1)C1CC1 | C26H29N5O3
